### PR TITLE
[Merged by Bors] - feat(CategoryTheory): coskeletal simplicial objects

### PR DESCRIPTION
**Pull request by emilyriehl**
A simplicial object `X` is *n-coskeletal* if the identity natural transformation `X` is a right extension of its
restriction along `(Truncated.inclusion (n := n)).op` recorded by `rightExtensionInclusion X n`. 

Co-Authored-By: [Mario Carneiro](https://github.com/digama0) and [Joël Riou](https://github.com/joelriou) 

---

This implements a suggestion made in #19057.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 1]
```diff
@@ -0,0 +1,115 @@
...
+variable {C : Type u} [Category.{v} C]
+variable (X : SimplicialObject C) (n : ℕ)
+
+namespace Truncated
+
+/-- The identity natural transformation exhibits a simplicial set as a right extension of its
+restriction along `(Truncated.inclusion (n := n)).op`.-/
+@[simps!]
+def rightExtensionInclusion :
+    RightExtension (Truncated.inclusion (n := n)).op
```
Comment (kim-em) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:46]: Given how often you need to use a named argument to specify the `n` argument of `Truncated.inclusion`, perhaps it should be made explicit.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 2]
```diff
@@ -0,0 +1,115 @@
...
+
+variable [X.IsCoskeletal n]
+
+/-- If `X` is `n`-cosketal, then `rightExtensionInclusion X n` is a terminal object in the category
+`RightExtension (Truncated.inclusion (n := n)).op (Truncated.inclusion.op ⋙ X)`. -/
+theorem IsCoskeletal.isRightKanExtension :
+    IsRightKanExtension X (𝟙 (Truncated.inclusion (n := n).op ⋙ X)) :=
+  IsCoskeletal.nonempty_isRightKanExtension.some
+
+/-- If `X` is `n`-cosketal, then `rightExtensionInclusion X n` is a terminal object in the category
```
Comment (kim-em) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:67]:
```suggestion
/-- If `X` is `n`-coskeletal, then `rightExtensionInclusion X n` is a terminal object in the category
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 3]
```diff
@@ -0,0 +1,115 @@
...
+/-- A simplicial object `X` is `n`-coskeletal when it is the right Kan extension of its restriction
+along `Truncated.inclusion (n := n).op` via the identity natural transformation.-/
+class IsCoskeletal : Prop where
+  nonempty_isRightKanExtension :
+    Nonempty (IsRightKanExtension X (𝟙 (Truncated.inclusion (n := n).op ⋙ X)))
+
+variable [X.IsCoskeletal n]
+
+/-- If `X` is `n`-cosketal, then `rightExtensionInclusion X n` is a terminal object in the category
+`RightExtension (Truncated.inclusion (n := n)).op (Truncated.inclusion.op ⋙ X)`. -/
```
Comment (kim-em) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:62]: Is this doc-string mistakenly copy-pasted from below?

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 4]
```diff
@@ -0,0 +1,115 @@
...
+noncomputable def IsCoskeletal.isUniversalOfIsRightKanExtension :
+    (rightExtensionInclusion X n).IsUniversal := by
+  have := isRightKanExtension X n
+  apply Functor.isUniversalOfIsRightKanExtension
+
+variable [∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
+    SimplexCategory.Truncated.inclusion.op.HasRightKanExtension F]
+
+/-- There is a map of costructured arrows from `rightExtensionInclusion X n` to the right extension
+of the `n`-truncation of `X` defined by the counit of `coskAdj n`.-/
```
Comment (kim-em) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:78]:
```suggestion
of the `n`-truncation of `X` defined by the counit of `coskAdj n`. -/
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 5]
```diff
@@ -0,0 +1,115 @@
...
+  exact Functor.instIsRightKanExtensionObjRanAppRanCounit _ _
+
+/-- The map `coskRightExtension.hom X` is a natural transformation between two right Kan extensions
+of the diagram `Truncated.inclusion.op ⋙ X` and thus is an isomorphism. -/
+instance IsCoskeletal.coskRightExtension.hom_isIso : IsIso (coskRightExtension.hom X n) :=
+  isIso_of_isTerminal (IsCoskeletal.isUniversalOfIsRightKanExtension X n)
+    (((Truncated.cosk n).obj
+      ((Truncated.inclusion (n := n)).op ⋙ X)).isUniversalOfIsRightKanExtension
+        ((coskAdj n).counit.app ((Truncated.inclusion (n := n)).op ⋙ X)))
+      (coskRightExtension.hom X n)
```
Comment (kim-em) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:98]: I'm a bit confused by how the naming conventions are being used here. I think usually this first instance would be called `isRightKanExtensionCosk`? But I see the tension with putting `cosk` first.

Comment (kim-em) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:98]: Similarly for `isIsoHom`?

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 1 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:46]: Done.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 3 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: Fixed.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 6]
```diff
@@ -0,0 +1,116 @@
...
+import Mathlib.CategoryTheory.Functor.KanExtension.Adjunction
+import Mathlib.CategoryTheory.Functor.KanExtension.Basic
+
+/-!
+# Coskeletal simplicial objects
+
+The identity natural transformation exhibits a simplicial object `X` as a right extension of its
+restriction along `(Truncated.inclusion n).op` recorded by `rightExtensionInclusion X n`.
+
+The simplicial object `X` is *n-coskeletal* if `(rightExtensionInclusion X n)` is a right Kan
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:16]:
```suggestion
The simplicial object `X` is *n-coskeletal* if `rightExtensionInclusion X n` is a right Kan
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 7]
```diff
@@ -0,0 +1,116 @@
...
+/-- The map `coskRightExtension.hom X` is a natural transformation between two right Kan extensions
+of the diagram `Truncated.inclusion.op ⋙ X` and thus is an isomorphism. -/
+noncomputable def IsCoskeletal.coskRightExtension.homIso :
+    Truncated.rightExtensionInclusion X n ≅ RightExtension.mk _
+      ((coskAdj n).counit.app ((Truncated.inclusion n).op ⋙ X)) :=
+  asIso (rightExtensionCosk.hom X n)
+
+/-- The isomorphism `X ≅ (cosk n).obj X` that exists when `X` is coskeletal and the
+`n`-coskeleton functor exists.-/
+noncomputable def IsCoskeletal.isoCosk : X ≅ (cosk n).obj X :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:109]: I would prefer a name like `isoCoskOfIsCoskeletal`.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 8]
```diff
@@ -0,0 +1,116 @@
...
+instance Truncated.isRightKanExtensionCosk : IsRightKanExtension
+    ((Truncated.cosk n).obj ((inclusion n).op ⋙ X))
+    ((coskAdj n).counit.app ((inclusion n).op ⋙ X)) := by
+  unfold Truncated.cosk coskAdj
+  rw [ranAdjunction_counit]
+  exact Functor.instIsRightKanExtensionObjRanAppRanCounit _ _
+
+/-- The map `coskRightExtension.hom X` is a natural transformation between two right Kan extensions
+of the diagram `Truncated.inclusion.op ⋙ X` and thus is an isomorphism. -/
+instance IsCoskeletal.coskRightExtension.isIsoHom : IsIso (rightExtensionCosk.hom X n) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:93]:
```suggestion
instance IsCoskeletal.coskRightExtension.isIso_hom : IsIso (rightExtensionCosk.hom X n) :=
```
(`IsIso` is a Prop, so that this instance is like a lemma, not a def, then we have to use `_` as a separator.)

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 7 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:109]: No problem. I'll change it back. I was trying for greater uniformity but really have no idea what I'm doing..

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 9]
```diff
@@ -0,0 +1,116 @@
...
+    RightExtension.mk _
+      ((coskAdj n).counit.app ((Truncated.inclusion n).op ⋙ X)) :=
+  CostructuredArrow.homMk ((coskAdj n).unit.app X) ((coskAdj n).left_triangle_components X)
+
+instance Truncated.isRightKanExtensionCosk : IsRightKanExtension
+    ((Truncated.cosk n).obj ((inclusion n).op ⋙ X))
+    ((coskAdj n).counit.app ((inclusion n).op ⋙ X)) := by
+  unfold Truncated.cosk coskAdj
+  rw [ranAdjunction_counit]
+  exact Functor.instIsRightKanExtensionObjRanAppRanCounit _ _
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:89]: As this instance name `Functor.instIsRightKanExtensionObjRanAppRanCounit` was autogenerated by Lean, it would be better to use a syntax like
```lean
  change IsRightKanExtension ...
  infer_instance
```
where in the `change` line, you would put the exact pattern which matches `Functor.instIsRightKanExtensionObjRanAppRanCounit`.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 8 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: The name should rather contain `rightExtensionCosk` rather than `coskRightExtension`. Then, better names would be `IsCoskeletal.isIso_rightExtensionCosk_hom` (or `isIso_rightExtensionCosk_hom_of_isCoskeletal`).

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 9 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: Though actually here the "change" wasn't needed!

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 10]
```diff
@@ -0,0 +1,116 @@
...
+noncomputable def IsCoskeletal.coskRightExtension.homIso :
+    Truncated.rightExtensionInclusion X n ≅ RightExtension.mk _
+      ((coskAdj n).counit.app ((Truncated.inclusion n).op ⋙ X)) :=
+  asIso (rightExtensionCosk.hom X n)
+
+/-- The isomorphism `X ≅ (cosk n).obj X` that exists when `X` is coskeletal and the
+`n`-coskeleton functor exists.-/
+noncomputable def isoCoskOfIsCoskeletal : X ≅ (cosk n).obj X :=
+  (CostructuredArrow.proj ((whiskeringLeft _ _ _).obj (Truncated.inclusion n).op)
+    ((Truncated.inclusion n).op ⋙ X)).mapIso (IsCoskeletal.coskRightExtension.homIso X n)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:111]: A few of the definitions before this one are unnecessary, a better approach would be:
```lean
-- this instance should be in `SimplicialObject.Basic`
instance : ((cosk n).obj X).IsRightKanExtension ((coskAdj n).counit.app _) := by
  dsimp [cosk, coskAdj]
  rw [ranAdjunction_counit]
  infer_instance

/-- The isomorphism `X ≅ (cosk n).obj X` that exists when `X` is `n`-coskeletal and the
`n`-coskeleton functor exists.-/
noncomputable def isoCoskOfIsCoskeletal : X ≅ (cosk n).obj X :=
  X.rightKanExtensionUnique (L := (Truncated.inclusion n).op) (α := 𝟙 _)
    ((cosk n).obj X) ((coskAdj n).counit.app _)

@[simp]
lemma isoCoskOfIsCoskeletal_hom :
    (X.isoCoskOfIsCoskeletal n).hom = (coskAdj n).unit.app X := by
  sorry -- use `hom_ext_of_isRightKanExtension` ?
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 11]
```diff
@@ -0,0 +1,116 @@
...
+along `(Truncated.inclusion n).op` via the identity natural transformation. -/
+class IsCoskeletal : Prop where
+  nonempty_isRightKanExtension :
+    Nonempty (IsRightKanExtension X (𝟙 ((Truncated.inclusion n).op ⋙ X)))
+
+variable [X.IsCoskeletal n]
+
+/-- If `X` is `n`-cosketal, then `𝟙 ((Truncated.inclusion n).op ⋙ X)` defines a right Kan
+extension of `(Truncated.inclusion.op ⋙ X)` along `(Truncated.inclusion n).op`. -/
+theorem IsCoskeletal.isRightKanExtension :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:63]: By making this an instance, it will usable by the right Kan extension API:
```suggestion
instance IsCoskeletal.isRightKanExtension :
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 10 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: Then, using `isRightKanExtension_iff_isIso`, I seems to me it should be easy to show the iff lemma that `X.IsCoskeletal n` iff `IsIso ((coskAdj n).unit.app X)`. If would be nice to add this to this PR.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: When we introduce a typeclass (here `IsCoskeletal`) for certain objects (here `SimplicialObject`), it is often convenient to put some definitions or lemmas in the `SimplicialObject` namespace rather than `IsCoskeletal`. One reason is that we can use dot notation, e.g. `X.isoCoskOfIsCoskeletal n`.

Comment (kim-em) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: (Sorry, my fault here, I think I made bad naming suggestions above.)

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 10 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: @joelriou I completed the defs you suggested but had a lot of difficulty, see:

* the four instances `Truncated.isRightKanExtensionCosk` with zero to three primes, all of which Lean couldn't infer at some point 
* `isRightKanExtensionCosk_iff_isIso` vs `isCoskeletal_iff_isIso` (here I'm clearly missing something basic).

I get that the terms I built along the way to the original explicit isomorphism in `isoCoskOfIsCoskeletal` were not of general interest to anyone, but I found that approach to be more straightforward. (I get, though, that this is because I don't know my way around the more general theorems in Mathlib.)

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean [hunk 12]
```diff
@@ -0,0 +1,180 @@
...
+
+end Truncated
+
+open Truncated
+
+/-- A simplicial object `X` is `n`-coskeletal when it is the right Kan extension of its restriction
+along `(Truncated.inclusion n).op` via the identity natural transformation. -/
+class IsCoskeletal : Prop where
+  nonempty_isRightKanExtension :
+    Nonempty (IsRightKanExtension X (𝟙 ((Truncated.inclusion n).op ⋙ X)))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean:57]: I was slightly mistaken in my original suggestion, as I had forgotten that `IsRightKanExtension` is a `Prop` (while `IsPointwiseRightKanExtension` contains data):
```suggestion
@[mk_iff]
class IsCoskeletal : Prop where
  isRightKanExtension : IsRightKanExtension X (𝟙 ((Truncated.inclusion n).op ⋙ X))

attribute [instance] IsCoskeletal.isRightKanExtension
```

Then, the rest of file could be:
```lean
section

variable [∀ (F : (SimplexCategory.Truncated n)ᵒᵖ ⥤ C),
    (SimplexCategory.Truncated.inclusion n).op.HasRightKanExtension F]

instance : ((cosk n).obj X).IsRightKanExtension ((coskAdj n).counit.app _) := by
  dsimp [cosk, coskAdj]
  rw [ranAdjunction_counit]
  infer_instance

/-- If `X` is `n`-coskeletal, then `Truncated.rightExtensionInclusion X n` is a terminal object in
the category `RightExtension (Truncated.inclusion n).op (Truncated.inclusion.op ⋙ X)`. -/
noncomputable def IsCoskeletal.isUniversalOfIsRightKanExtension [X.IsCoskeletal n] :
    (rightExtensionInclusion X n).IsUniversal := by
  apply Functor.isUniversalOfIsRightKanExtension

theorem isCoskeletal_iff_isIso : X.IsCoskeletal n ↔ IsIso ((coskAdj n).unit.app X) := by
  rw [isCoskeletal_iff]
  exact isRightKanExtension_iff_isIso ((coskAdj n).unit.app X)
    ((coskAdj n).counit.app _) (𝟙 _) ((coskAdj n).left_triangle_components X)

instance [X.IsCoskeletal n] : IsIso ((coskAdj n).unit.app X) := by
  rw [← isCoskeletal_iff_isIso]
  infer_instance

/-- The canonical isomorphism `X ≅ (cosk n).obj X` defined when `X` is coskeletal and the
`n`-coskeleton functor exists.-/
@[simps! hom]
noncomputable def isoCoskOfIsCoskeletal [X.IsCoskeletal n] : X ≅ (cosk n).obj X :=
  asIso ((coskAdj n).unit.app X)

end
```

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 10 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: The fact that you had to construct so many variants of the same instance could be a sign that `cosk` should not be defined as `abbrev`, but as a `def`. Let us consider this out of the scope of this PR.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: I take this to mean that this is a chore to be explored later in a separate PR. I'll make a note of this.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 12 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: This is much better. I'm sorry I made this so much harder than it had to be.

**Comment by emilyriehl** [comment]
This is much nicer now. Thank you so much @joelriou. I'm sorry I made this so much more complicated than it had to be. 

Let me know if you'd like me to add the dual `IsSkeletal`.

File: Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean (hunk 12 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialObject/Coskeletal.lean]: It is much easier for me as I authored the Kan extension API for functors!

**Comment by emilyriehl** [comment]
(boarding a plane so I'm removing awaiting author somewhat optimistically...)

**Comment by joelriou** [comment]
Now, it looks good enough for me!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
